US08048881B2
25.1. 6-(2-hydroxy-ethoxy)-2-phenyl-pyrimidine-4-carboxylic acid
Ethylene glycol (34 μl) was added to a suspension of sodium hydride (24 mg) in anhydrous THF (2 ml) at 0° C. After 30 min stirring at 0° C., 6-chloro-2-phenyl-pyrimidine-4-carboxylic acid (47 mg) dissolved in THF (1.2 ml) was added. The mixture was allowed to warm to RT and stirred overnight. A 1M HCl solution was added and the resulting mixture was extracted with EA. The org. phases were dried (Na2SO4) and evaporated off.

reactant | Ethylene glycol | 34 μl | C(CO)O | C2H6O2
reactant | sodium hydride | 24 mg | [H-].[Na+]
reactant | 6-chloro-2-phenyl-pyrimidine-4-carboxylic acid | 47 mg | ClC1=CC(=NC(=N1)C1=CC=CC=C1)C(=O)O | C11H7ClN2O2
reactant | HCl | 1M | Cl | ClH
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 1.2 ml | C1CCOC1 | C4H8O
product | 6-(2-hydroxy-ethoxy)-2-phenyl-pyrimidine-4-carboxylic acid | OCCOC1=CC(=NC(=N1)C1=CC=CC=C1)C(=O)O | C13H12N2O4
